US08133847B2
A solution of 1-bromo-3-bromomethyl-2-chloro-4-fluorobenzene (9.945 g) in absolute ethanol (40 mL) was added dropwise to a solution of potassium cyanide (2.38 g) in water (2 ml) under heating over a period of 30 minutes. The reaction mixture was heated to reflux for 7 hours. The reaction mixture was then allowed to cool and stored at ambient temperature for 16 hours. The mixture was filtered and the filtrate concentrated. The residue was dissolved in ethyl acetate, dried over magnesium sulfate and concentrated to give (3-bromo-2-chloro-6-fluoro-phenyl)-acetonitrile as a pale yellow oil (8.19 g).

reactant | 1-bromo-3-bromomethyl-2-chloro-4-fluorobenzene | 9.945 g | BrC1=C(C(=C(C=C1)F)CBr)Cl | C7H4Br2ClF
reactant | potassium cyanide | 2.38 g | [C-]#N.[K+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | (3-bromo-2-chloro-6-fluoro-phenyl)-acetonitrile | 8.19 g | BrC=1C(=C(C(=CC1)F)CC#N)Cl | C8H4BrClFN
